US04496735
A mixture of 6 g of 4-(2-pyridylthio)benzaldehyde, 6 g of sodium propionate and 30 ml of propionic anhydride was stirred for 5 hours at a temperature of 150° to 155° C. and then concentrated under reduced pressure. Water was added to the mixture which was then heated. The mixture was allowed to stand to precipitate crystals and the resulting crystals were separated by filtration, washed with water and dried to obtain 2-methyl-3-[4-(2-pyridylthio)phenyl]propenoic acid. The product was dissolved in 30 ml of methanol, and a small amount of methanolic hydrogen chloride was added to the solution, followed by refluxing for 1 hour. The solvent was distilled off and the resulting crystals were recrystallized from a mixture of methanol and ethyl acetate to obtain 2.6 g (30% yield) of methyl 2-methyl-3-[4-(2-pyridylthio)phenyl]propenoate hydrochloride as colorless needles having a melting point of 130°-133° C.

reactant | 4-(2-pyridylthio)benzaldehyde | 6 g | N1=C(C=CC=C1)SC1=CC=C(C=O)C=C1 | C12H9NOS
reactant | sodium propionate | 6 g | C(CC)(=O)[O-].[Na+]
solvent | propionic anhydride | 30 ml | C(CC)(=O)OC(CC)=O | C6H10O3
product | 2-methyl-3-[4-(2-pyridylthio)phenyl]propenoic acid | CC(C(=O)O)=CC1=CC=C(C=C1)SC1=NC=CC=C1 | C15H13NO2S
